US04889857
A solution of 710 mg of 1-(2,4-difluorophenyl)-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid, 487 mg of 2-(methylaminomethyl)morpholine dihydrochloride and 1035 mg of 1,8-diazabicyclo[5.4.0]undec-7-ene in 10 ml of acetonitrile is refluxed for 21 hours. The reaction mixture is concentrated under reduced pressure and to the residue is added 10 ml of methanol. The obtained crystals are collected by filtration and washed with methanol, water and then acetone to give 1-(2,4-difluorophenyl)-7-[2-(methylaminomethyl)morpholino]-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid, melting at 224°-227° C. with decomposition.

reactant | 1-(2,4-difluorophenyl)-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 710 mg | FC1=C(C=CC(=C1)F)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C16H6F5NO3
reactant | 2-(methylaminomethyl)morpholine dihydrochloride | 487 mg | Cl.Cl.CNCC1CNCCO1
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 1035 mg | N12CCCCCC2=NCCC1 | C9H16N2
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 1-(2,4-difluorophenyl)-7-[2-(methylaminomethyl)morpholino]-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | FC1=C(C=CC(=C1)F)N1C=C(C(C2=CC(=C(C(=C12)F)N1CC(OCC1)CNC)F)=O)C(=O)O | C22H19F4N3O4
